US04868177
N1 -(2-Phenylethyl)-1,2,3,4-tetrahydro-1,9-acridinediamine
A mixture of 9-amino-1,2,3,4-tetrahydroacridin-1-ol (8.82 g), phenylethylamine (15.6 ml) and p-toluensulfonic acid (8.7 g) in 250 ml of toluene was refluxed with removal of water for twenty hours. The mixture was then treated with a dilute NaOH solution, and extracted with ethyl acetate (3x). The combined organics were washed with water and dried (saturated NaCl solution, MgSO4).

reactant | 9-amino-1,2,3,4-tetrahydroacridin-1-ol | 8.82 g | NC=1C2=CC=CC=C2N=C2CCCC(C12)O | C13H14N2O
reactant | phenylethylamine | 15.6 ml | C1(=CC=CC=C1)CCN | C8H11N
reactant | p-toluensulfonic acid | 8.7 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | NaOH | [OH-].[Na+]
solvent | toluene | 250 ml | C1(=CC=CC=C1)C | C7H8
solvent | water | O | H2O
product | N1 -(2-Phenylethyl)-1,2,3,4-tetrahydro-1,9-acridinediamine | C1(=CC=CC=C1)CCNC1CCCC2=NC3=CC=CC=C3C(=C12)N | C21H23N3
